US04948796
2.99 g of ethyl (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]acrylate was dissolved in 30 ml of anhydrous toluene. To the solution was dropwise added 22.0 ml of a 1M toluene solution of diisobutylaluminum hydride at -50° C. in a nitrogen atmosphere. The mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was dropwise added 1.6 ml of water. The mixture was stirred for 1 hour at room temperature. The resulting insolubles were removed by filtration. The filtrate was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 2.57 g of colorless oily (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]allyl alcohol.

reactant | ethyl (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]acrylate | 2.99 g | COC=1C=C(C=CC1OC=1C=NC=CC1)/C=C/C(=O)OCC | C17H17NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 1.6 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1M | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[3-methoxy-4-(3-pyridyloxy)phenyl]allyl alcohol | 2.57 g | COC=1C=C(C=CC1OC=1C=NC=CC1)/C=C/CO | C15H15NO3
